US07300951B2
A. Methyl 4,4,4,4′,4′,4′-hexafluoro-dl-valinate
A solution of 4,4,4,4′,4′,4′-hexafluoro-dl-valine (1.1 g, 4.88 mmol) in CH2Cl2-MeOH (4:1, 25 mL) was stirred under nitrogen at 0° C. TMS-diazomethane (2.0 M in hexane, 20 mL, 19.55 mL) was added dropwise and the resulting neon greenish solution stirred for 19 h at 25° C. After this time period, the reaction was complete by TLC (10% MeOH in chloroform). After concentration, the resulting residue of methyl 4,4,4,4′,4′,4′-hexafluoro-dl-valinate (1.1 g) was used directly in the next step without further purification. Mass Spectrum (−ESI): 238 (M−H)−.

reactant | 4,4,4,4′,4′,4′-hexafluoro-dl-valine | 4.88 mmol, 1.1 g | FC(C(C(N)C(=O)O)C(F)(F)F)(F)F | C5H5F6NO2
reactant | TMS-diazomethane | 2.0 M, 20 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 MeOH | 25 mL | C(Cl)Cl.CO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4,4,4,4′,4′,4′-hexafluoro-dl-valinate | FC(C(C(N)C(=O)OC)C(F)(F)F)(F)F | C6H7F6NO2
